US04868061
A solution of 0.06 mol of N-(2-allylphenyl)alanine, prepared as described by A. Padwa, H. L. Gingrich, and R. Lim in J. Org. Chem., 1982, 47, 2447-2456, and 0.066 mol of HCl in 100 mL of CH3OH is stirred at reflux for 8 hours. The solution is then cooled and treated with 0.066 molof sodium bicarbonate. The solvent is removed by rotary evaporator, and theresidue is dissolved in diethyl ether, filtered, dried over MgSO4, andfiltered. The solvent is removed by rotary evaporator to give N-(2-allylphenyl)alanine methyl ester.

reactant | N-(2-allylphenyl)alanine | 0.06 mol | C(C=C)C1=C(C=CC=C1)N[C@@H](C)C(=O)O | C12H15NO2
reactant | HCl | 0.066 mol | Cl | ClH
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | CH3OH | 100 mL | CO | CH4O
product | N-(2-allylphenyl)alanine methyl ester | COC([C@@H](NC1=C(C=CC=C1)CC=C)C)=O | C13H17NO2
